US09108903B2
4,5-Dichloro-2-fluoro-benzoic acid (50 mg, 0.24 mmol), HATU (100.0 mg, 0.26 mmol) and N-methoxymethanamine (hydrochloric acid) (23.33 mg, 0.24 mmol) were combined in DMF (1.0 mL) and treated with DIEA (83.33 μL, 0.48 mmol). After 10 min, the reaction was complete. The reaction was diluted with diethyl ether and washed with 50% sat. NaHCO3 (2×) and brine, dried over Na2SO4, filtered and concentrated. Silica gel chromatography using a gradient of ethyl acetate/hexanes from 0 to 30% provided 4,5-dichloro-2-fluoro-N-methoxy-N-methyl-benzamide (50 mg, 83%) as a colorless oil. 1H NMR (400 MHz, CDCl3) δ 7.54 (d, J=6.3 Hz, 1H), 7.26 (d, J=8.6 Hz, 1H), 3.56 (s, 3H), 3.35 (s, 3H) ppm.

reactant | 4,5-Dichloro-2-fluoro-benzoic acid | 0.24 mmol, 50 mg | ClC1=CC(=C(C(=O)O)C=C1Cl)F | C7H3Cl2FO2
reactant | HATU | 0.26 mmol, 100.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-methoxymethanamine | 0.24 mmol, 23.33 mg | CONC | C2H7NO
reactant | DIEA | 0.48 mmol, 83.33 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4,5-dichloro-2-fluoro-N-methoxy-N-methyl-benzamide | 50 mg, 83% | ClC1=CC(=C(C(=O)N(C)OC)C=C1Cl)F | C9H8Cl2FNO2
